US07468369B2
2.0 g of methyl (triphenylphosphoranylidene)acetate and 720 mg of p-toluenealdehyde are dissolved in 10 ml of dichloromethane and stirred at room temperature for twelve hours. Then, 4 g of kieselguhr are added, and the solvent is removed in vacuo. The resulting residue is purified on silica gel with n-heptane:ethyl acetate=4:1 as eluent. 850 mg of methyl trans-3-p-tolylacrylate are obtained as an oil.

reactant | methyl (triphenylphosphoranylidene)acetate | 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | p-toluenealdehyde | 720 mg | C1(=CC=C(C=C1)C=O)C | C8H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl trans-3-p-tolylacrylate | 850 mg | C1(=CC=C(C=C1)/C=C/C(=O)OC)C | C11H12O2
